US07538931B2
Hac=1-Benzyl-2-phenyl-1H-benzimidazole
To a flask were added 3 g 2-phenylbenzimidazole, 2.8 g potassium carbonate, 40 ml N,N-dimethylformamide and the mixture was stirred under nitrogen. 3.6 g Benzyl chloride were added and the mixture was heated to 75 C for 8 hrs. The reaction was cooled to 50 C and quenched with 40 ml of water and cooled to 5 C. The product was filtered, washed with water. The product was recrystallized by dissolving in 57 ml acetonitrile at reflux and 39 ml water were added. After cooling to 5 C, the product was filtered, washed and dried giving 3.1 g.

reactant | 2-phenylbenzimidazole | 3 g | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl chloride | 3.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-2-phenyl-1H-benzimidazole | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | C20H16N2
